** _uc35c0f591c706f **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: songwl
* Wed, Apr 10, 2019 15:32:24 
*

*## Multisim Instrument XMM4 ##*
XMM4 XMM4_OPEN_1 XMM4_OPEN_2 XXMM4_214374424

*## Multisim Component Q2 ##*
qQ2 4 8 4 2N2222__BJT_NPN__1

*## Multisim Component C2 ##*
cC2 4 6 2.2e-005

*## Multisim Instrument XMM1 ##*
XMM1 4 6 XXMM1_214374424

*## Multisim Component R5 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR5 6 R5_OPEN_2 R5_OPEN_3  PotentiometerR5
.subckt PotentiometerR5 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R4 ##*
rR4 7 8 22 vresR4  
.model vresR4 r(  )

*## Multisim Component LED1 ##*
*!!!BEGIN-INTERACT
*  : Ion           ++++f2    ;
*  0.0      VARIABLE   r1Cur
*
*  : LED_OFF
*     1 11 0 SET_SUBCOMP_PRP
*     0 13 0 SET_SUBCOMP_PRP
*     1 12 0 SET_SUBCOMP_PRP
*     0 14 0 SET_SUBCOMP_PRP
*  ;
*
*  : LED_ON
*     0 11 0 SET_SUBCOMP_PRP
*     1 13 0 SET_SUBCOMP_PRP
*     0 12 0 SET_SUBCOMP_PRP
*     1 14 0 SET_SUBCOMP_PRP
*  ;
*
*  :UPDATE_SETTINGS
*     LED_OFF
*  ;
*
*  :OUT_DATA
*     GET_INSTANCE Vsource ::V V  i  ==>_*r1Cur
*     Ion  *r1Cur  0.00004999  f.-   f.<=   if
*        LED_ON
*     else   
*        LED_OFF
*     endif  
*  ;
*
*  :BEGIN_PLOT
*     LED_OFF
*  ;
*
* !!!END-INTERACT
*
xLED1 4 10 LED_redLED1
*
.SUBCKT LED_redLED1  K A
D1 1 A  LED_mod
V   K  1  DC 0
.MODEL LED_mod D (
+ IS=2.560e-014 N=3.007e+000 RS=8.513e-003
+ BV=6.100e+001 IBV=6.000e-006
+ EG=1.110e+000 XTI=3.000e+000 
+ CJO=3.238e-011, M=3.388e-001 VJ=3.250e-001
+ FC=5.000e-001 KF=0.000e+000 AF=1.000e+000 )
.ENDS

*## Multisim Component LED4 ##*
*!!!BEGIN-INTERACT
*  : Ion           ++++f2    ;
*  0.0      VARIABLE   r1Cur
*
*  : LED_OFF
*     1 11 0 SET_SUBCOMP_PRP
*     0 13 0 SET_SUBCOMP_PRP
*     1 12 0 SET_SUBCOMP_PRP
*     0 14 0 SET_SUBCOMP_PRP
*  ;
*
*  : LED_ON
*     0 11 0 SET_SUBCOMP_PRP
*     1 13 0 SET_SUBCOMP_PRP
*     0 12 0 SET_SUBCOMP_PRP
*     1 14 0 SET_SUBCOMP_PRP
*  ;
*
*  :UPDATE_SETTINGS
*     LED_OFF
*  ;
*
*  :OUT_DATA
*     GET_INSTANCE Vsource ::V V  i  ==>_*r1Cur
*     Ion  *r1Cur  0.00004999  f.-   f.<=   if
*        LED_ON
*     else   
*        LED_OFF
*     endif  
*  ;
*
*  :BEGIN_PLOT
*     LED_OFF
*  ;
*
* !!!END-INTERACT
*
xLED4 10 11 LED_redLED4
*
.SUBCKT LED_redLED4  K A
D1 1 A  LED_mod
V   K  1  DC 0
.MODEL LED_mod D (
+ IS=2.560e-014 N=3.007e+000 RS=8.513e-003
+ BV=6.100e+001 IBV=6.000e-006
+ EG=1.110e+000 XTI=3.000e+000 
+ CJO=3.238e-011, M=3.388e-001 VJ=3.250e-001
+ FC=5.000e-001 KF=0.000e+000 AF=1.000e+000 )
.ENDS

*## Multisim Component LED3 ##*
*!!!BEGIN-INTERACT
*  : Ion           ++++f2    ;
*  0.0      VARIABLE   r1Cur
*
*  : LED_OFF
*     1 11 0 SET_SUBCOMP_PRP
*     0 13 0 SET_SUBCOMP_PRP
*     1 12 0 SET_SUBCOMP_PRP
*     0 14 0 SET_SUBCOMP_PRP
*  ;
*
*  : LED_ON
*     0 11 0 SET_SUBCOMP_PRP
*     1 13 0 SET_SUBCOMP_PRP
*     0 12 0 SET_SUBCOMP_PRP
*     1 14 0 SET_SUBCOMP_PRP
*  ;
*
*  :UPDATE_SETTINGS
*     LED_OFF
*  ;
*
*  :OUT_DATA
*     GET_INSTANCE Vsource ::V V  i  ==>_*r1Cur
*     Ion  *r1Cur  0.00004999  f.-   f.<=   if
*        LED_ON
*     else   
*        LED_OFF
*     endif  
*  ;
*
*  :BEGIN_PLOT
*     LED_OFF
*  ;
*
* !!!END-INTERACT
*
xLED3 12 6 LED_redLED3
*
.SUBCKT LED_redLED3  K A
D1 1 A  LED_mod
V   K  1  DC 0
.MODEL LED_mod D (
+ IS=2.560e-014 N=3.007e+000 RS=8.513e-003
+ BV=6.100e+001 IBV=6.000e-006
+ EG=1.110e+000 XTI=3.000e+000 
+ CJO=3.238e-011, M=3.388e-001 VJ=3.250e-001
+ FC=5.000e-001 KF=0.000e+000 AF=1.000e+000 )
.ENDS

*## Multisim Component LED2 ##*
*!!!BEGIN-INTERACT
*  : Ion           ++++f2    ;
*  0.0      VARIABLE   r1Cur
*
*  : LED_OFF
*     1 11 0 SET_SUBCOMP_PRP
*     0 13 0 SET_SUBCOMP_PRP
*     1 12 0 SET_SUBCOMP_PRP
*     0 14 0 SET_SUBCOMP_PRP
*  ;
*
*  : LED_ON
*     0 11 0 SET_SUBCOMP_PRP
*     1 13 0 SET_SUBCOMP_PRP
*     0 12 0 SET_SUBCOMP_PRP
*     1 14 0 SET_SUBCOMP_PRP
*  ;
*
*  :UPDATE_SETTINGS
*     LED_OFF
*  ;
*
*  :OUT_DATA
*     GET_INSTANCE Vsource ::V V  i  ==>_*r1Cur
*     Ion  *r1Cur  0.00004999  f.-   f.<=   if
*        LED_ON
*     else   
*        LED_OFF
*     endif  
*  ;
*
*  :BEGIN_PLOT
*     LED_OFF
*  ;
*
* !!!END-INTERACT
*
xLED2 11 12 LED_redLED2
*
.SUBCKT LED_redLED2  K A
D1 1 A  LED_mod
V   K  1  DC 0
.MODEL LED_mod D (
+ IS=2.560e-014 N=3.007e+000 RS=8.513e-003
+ BV=6.100e+001 IBV=6.000e-006
+ EG=1.110e+000 XTI=3.000e+000 
+ CJO=3.238e-011, M=3.388e-001 VJ=3.250e-001
+ FC=5.000e-001 KF=0.000e+000 AF=1.000e+000 )
.ENDS

*## Multisim Component D5 ##*
aD5 6 4 zener_virtualD5
.model zener_virtualD5 ZENER (
+  v_breakdown=12
+  i_breakdown=0.02
+  i_sat=1e-012
+  n_forward=1)

*## Multisim Instrument XMM2 ##*
XMM2 4 6 XXMM2_214374424

*## Multisim Instrument XMM3 ##*
XMM3 2 5 XXMM3_214374424

*## Multisim Component R3 ##*
rR3 7 4 150000 vresR3  
.model vresR3 r(  )

*## Multisim Component D3 ##*
dD3 6 5 1N4007__DIODE__1

*## Multisim Component D2 ##*
dD2 5 4 1N4007__DIODE__1

*## Multisim Component D1 ##*
dD1 3 4 1N4007__DIODE__1

*## Multisim Component D4 ##*
dD4 6 3 1N4007__DIODE__1

*## Multisim Component R2 ##*
rR2 2 3 560 vresR2  
.model vresR2 r(  )

*## Multisim Component C1 ##*
cC1 1 2 0.000422

*## Multisim Component R1 ##*
rR1 1 2 1000000 vresR1  
.model vresR1 r(  )

*## Multisim Component V1 ##*
vV1 1 5 dc 0 ac 1 0
+      distof1 0 0
+      distof2 0 0
+      sin(0 {220*1.414213562} 50 0 0 0)


.subckt XXMM4_214374424 2 1 
I_multi_meter 1 2 DC 0.000000e+000
R_multi_meter 2 1 1.000000e+009
.ends

.MODEL 2N2222__BJT_NPN__1 npn
+IS=1.87573e-15 BF=153.575 NF=0.897646 VAF=10
+IKF=0.410821 ISE=3.0484e-09 NE=4 BR=0.1
+NR=1.00903 VAR=1.92063 IKR=4.10821 ISC=1.94183e-12
+NC=3.92423 RB=8.70248 IRB=0.1 RBM=0.1
+RE=0.111394 RC=0.556972 XTB=1.76761 XTI=1
+EG=1.05 CJE=1.67272e-11 VJE=0.83191 MJE=0.23
+TF=3.573e-10 XTF=0.941617 VTF=9.22508 ITF=0.0107017
+CJC=9.98785e-12 VJC=0.760687 MJC=0.345235 XCJC=0.9
+FC=0.49264 CJS=0 VJS=0.75 MJS=0.5
+TR=3.55487e-06 PTF=0 KF=0 AF=1

.subckt XXMM1_214374424 2 1 
I_multi_meter 1 2 DC 0.000000e+000
R_multi_meter 2 1 1.000000e+009
.ends

.subckt XXMM3_214374424 2 1 
I_multi_meter 1 2 DC 0.000000e+000
R_multi_meter 2 1 1.000000e+009
.ends

.MODEL 1N4007__DIODE__1 d (
+IS=3.19863e-08 RS=0.0428545 N=2 EG=0.784214
+XTI=0.504749 BV=1100 IBV=0.0001 CJO=4.67478e-11
+VJ=0.4 M=0.469447 FC=0.5 TT=8.86839e-06
+KF=0 AF=1 )


.subckt XXMM2_214374424 2 1 
I_multi_meter 1 2 DC 0.000000e+000
R_multi_meter 2 1 1.000000e+009
.ends

